US05710130
To a flame-dried 3 neck 1L round bottom flask was added diisopropylamine (9 mL, 66 mmol) and THF (150 mL) under a nitrogen atmosphere. The flask was cooled to an internal temperature of -78° C. (dry ice/acetone). To this stirring solution was added n-butyllithium (1.6M in hexanes, 41.3 mL, 66.1 mmol) via syringe and the mixture was allowed to stir for 5 min. To this solution was added a solution of 2-thiophenecarbonitrile (6.55 g, 60 mmol) in THF (30 mL) over 10 min. The resulting bright red solution was allowed to stir at -78° C. for 45 min, at which time dimethylformamide (23.3 mL, 300 mmol) was added via syringe. This mixture was allowed to stir for 2 h at -78° C. and then solid citric acid (about 10 g) was added followed by water (60 mL). Volatile solvents were removed in vacuo and the residue was partitioned between diethyl ether and brine (200 mL each). Layers were separated and the aqueous phase was washed once with diethyl ether. The combined organic phase was washed once with brine, dried (MgSO4), filtered and concentrated in vacuo to give a yellow solid which was purified by silica gel chromatography using an ethyl acetate/hexanes gradient (hexanes to 50% ethyl acetate/hexanes). Fractions containing pure product were pooled and concentrated in vacuo to give 6.9 g (84%) of 2-cyano-5-formyl-thiophene.

reactant | diisopropylamine | 66 mmol, 9 mL | C(C)(C)NC(C)C | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | 66.1 mmol, 1.6M, 41.3 mL | C(CCC)[Li]
reactant | 2-thiophenecarbonitrile | 60 mmol, 6.55 g | S1C(=CC=C1)C#N | C5H3NS
reactant | dimethylformamide | 300 mmol, 23.3 mL | CN(C=O)C | C3H7NO
reactant | citric acid | about 10 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 2-cyano-5-formyl-thiophene | 6.9 g, 84% | C(#N)C=1SC(=CC1)C=O | C6H3NOS
